US07592477B2
Step b) Formation of N-[2-(3-chlorophenyl)ethyl]-N-(4-oct-1-ynylbenzyl)amine
The same procedure as employed in the preparation of Example 1 (step a) but using 4-oct-1-ynylbenzaldehyde and [2-(3-chlorophenyl)ethyl]amine gave the title compound as a colorless oil (62%). 1H NMR (CDCl3, 300 MHz) δ 7.26 (d, J=8.3 Hz, 2H), 7.19-7.08 (m, 5H), 7.03-6.96 (m, 1H), 3.71 (s, 2H), 2.83-2.67 (m, 2H), 2.32 (t, J=7.2 Hz, 2H), 1.63-1.44 to (m, 2H), 1.44-1.31 (m, 2H), 1.31-1.15 (m, 6H), 0.83 (t, J=8.3 Hz, 3H). M+(LC/MS(ESI)): 354.4. HPLC (Condition A), Rt: 4.31 min (HPLC purity: 97.5%).

reactant | 4-oct-1-ynylbenzaldehyde | C(#CCCCCCC)C1=CC=C(C=O)C=C1 | C15H18O
reactant | [2-(3-chlorophenyl)ethyl]amine | ClC=1C=C(C=CC1)CCN | C8H10ClN
product | N-[2-(3-chlorophenyl)ethyl]-N-(4-oct-1-ynylbenzyl)amine | 62% | ClC=1C=C(C=CC1)CCNCC1=CC=C(C=C1)C#CCCCCCC | C23H28ClN
